US05733913
N7 -Butyl-6-phenyl-pyrido[2,3-d]pyrimidine-2,7-diamine
To a mixture of 23.8 g of 2-amino-6-phenyl-pyrido-[2,3-d]pyrimidin-7-ol prepared above in Example 8, 250 mL of dichloromethane, and 77.5 mL of dimethylformamide was added dropwise with cooling 36 mL of thionyl chloride keeping the temperature below 15° C. Following complete addition, the suspension was heated to reflux with stirring for 5 hours. The solvents were removed in vacuo maintaining the temperature below 60° C. The resulting solid was added with cooling to 250 mL of n-butylamine and the suspension refluxed for 6 hours with stirring. The reaction mixture was allowed to cool to room temperature, filtered, and the volatile components of the filtrate removed on a rotary evaporator in vacuo. The viscous oil was partitioned between diethyl ether and water, the layers were separated, and the ethereal layer was washed with water. The organic layer was dried over anhydrous magnesium sulfate, filtered, and evaporated. The residue was partitioned between diethyl ether and dilute 1N HCl. The aqueous layer was washed three times with diethylether and made alkaline to pH 12 by addition of sodium hydroxide. The solid product was collected by filtration and dried in vacuo to afford 6.5 g of the title compound N7 -butyl-6-phenyl-pyrido[2,3-d]pyrimidine-2,7-diamine, mp 174°-181° C. dec.

reactant | 2-amino-6-phenyl-pyrido-[2,3-d]pyrimidin-7-ol | 23.8 g | NC=1N=CC2=C(N1)N=C(C(=C2)C2=CC=CC=C2)O | C13H10N4O
reactant | dichloromethane | 250 mL | ClCCl | CH2Cl2
reactant | thionyl chloride | 36 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 77.5 mL | CN(C=O)C | C3H7NO
product | N7 -Butyl-6-phenyl-pyrido[2,3-d]pyrimidine-2,7-diamine | 6.5 g | C(CCC)NC=1C(=CC2=C(N=C(N=C2)N)N1)C1=CC=CC=C1 | C17H19N5
